US08476432B2
2-[(4R,6S)-2,2-dimethyl-6-(1-phenyl-1H-tetrazole-5-sulfonylmethyl)-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide (16.6 g), 2-cyclopropyl-3-formyl-4-(4-fluorophenyl)quinoline (10.0 g), and tetrahydrofuran (400.0 mL) were added to a reactor and then the reaction mixture was cooled to −70° C. A solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1M, 36.0 mL) was slowly added to the reaction mixture, the temperature of which was adjusted to −20˜−10° C. The reaction mixture was stirred at the same temperature for 1 hour and then 8% sodium bicarbonate solution (80.0 mL) was added thereto under stirring. The separated organic layer was washed with water (60.0 mL) and then concentrated under reduced pressure to obtain E-(6-{2-[2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl]vinyl}-[(4R,6S)-2,2-dimethyl-[1,3]dioxan-4-yl])-N-methoxy-N-methyl-acetamide as a solid (15.6 g, yield 90%).

reactant | 2-[(4R,6S)-2,2-dimethyl-6-(1-phenyl-1H-tetrazole-5-sulfonylmethyl)-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide | 16.6 g | CC1(O[C@@H](C[C@@H](O1)CC(=O)N(C)OC)CS(=O)(=O)C1=NN=NN1C1=CC=CC=C1)C | C18H25N5O6S
reactant | 2-cyclopropyl-3-formyl-4-(4-fluorophenyl)quinoline | 10.0 g | C1(CC1)C1=NC2=CC=CC=C2C(=C1C=O)C1=CC=C(C=C1)F | C19H14FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | sodium bicarbonate | 80.0 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1M, 36.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400.0 mL | O1CCCC1 | C4H8O
product | E-(6-{2-[2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl]vinyl}-[(4R,6S)-2,2-dimethyl-[1,3]dioxan-4-yl])-N-methoxy-N-methyl-acetamide | 15.6 g, yield 90% | C1(CC1)C1=NC2=CC=CC=C2C(=C1/C=C/[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC)C1=CC=C(C=C1)F | C30H33FN2O4
